US07667041B2
Synthesis of 1-[3-fluoro-4-(1H-imidazol-1-yl)-phenyl]ethanone
Imidazole (543 mg) and potassium carbonate (1.80 g) were added to a DMF (15 mL) solution of 3,4-difluoroacetophenone (1.0 mL). After agitating reaction solution at 80° C. for 4 hours, water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent:hexane:ethyl acetate=5:1→ethyl acetate), and 1.40 g of the title compound was obtained. The physical properties of the compound are as follows.

reactant | Imidazole | 543 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | 3,4-difluoroacetophenone | 1.0 mL | CC(=O)C1=CC(=C(C=C1)F)F | C8H6F2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-[3-fluoro-4-(1H-imidazol-1-yl)-phenyl]ethanone | 1.40 g | FC=1C=C(C=CC1N1C=NC=C1)C(C)=O | C11H9FN2O
